US04883794
[2-(2,4-Dichlorobenzoyl)-1H-pyrrol-1-yl]carbamic acid, ethyl ester
To a stirred slurry of 1-amino-2-(2,4-dichlorobenzoyl)pyrrole (377.6 g) and sodium bicarbonate (286.0 g) in 2.0 L of dichloromethane was added ethyl chloroformate (176.90 g) over 10 min. The reaction mixture was heated at reflux for 4 hrs and then quenched with H2O. The organic layer was washed with brine, dried (MgSO4), charcoaled, filtered and concentrated to a maroon oil. This oil was purified by flash chromatography (silica, dichloromethane) and concentrated to a green powder which was recrystallized from ether to give 171.8 g of white crystals, mp 114°-116°.

reactant | 1-amino-2-(2,4-dichlorobenzoyl)pyrrole | 377.6 g | NN1C(=CC=C1)C(C1=C(C=C(C=C1)Cl)Cl)=O | C11H8Cl2N2O
reactant | sodium bicarbonate | 286.0 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 176.90 g | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 2.0 L | ClCCl | CH2Cl2
product | [2-(2,4-Dichlorobenzoyl)-1H-pyrrol-1-yl]carbamic acid, ethyl ester | 171.8 g | ClC1=C(C(=O)C=2N(C=CC2)NC(OCC)=O)C=CC(=C1)Cl | C14H12Cl2N2O3
